US08536165B2
2-(5-Bromopyridin-2-yl)pyrazine
Obtained (0.310 g, yield 60%) following the procedure described in Intermediate 37, starting with 2,5-dibromopyridine (2.11 mmol, 0.5 g), 2-(tributylstannyl)pyrazine (2.32 mmol, 0.857 g).

reactant | 2,5-dibromopyridine | 2.11 mmol, 0.5 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 2-(tributylstannyl)pyrazine | 2.32 mmol, 0.857 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 2-(5-Bromopyridin-2-yl)pyrazine | yield 60% | BrC=1C=CC(=NC1)C1=NC=CN=C1 | C9H6BrN3
